US04405552
EXAMPLE 9: 1-(2-CHLOROBENZOYL)-3-(5-(4-CHLOROPHENYL)-2-PYRIDYL)UREA
5-(4-Chlorophenyl)-2-pyridylamine (0.6 gram) and 2-chlorobenzoyl isocyanate (0.7 gram) were reacted according to the teaching of Example 7. The identity of the product was confirmed by NMR, yield 920 mg, m.p. 228°-231° C.

reactant | 5-(4-Chlorophenyl)-2-pyridylamine | 0.6 gram | ClC1=CC=C(C=C1)C=1C=CC(=NC1)N | C11H9ClN2
reactant | 2-chlorobenzoyl isocyanate | 0.7 gram | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
product | 1-(2-CHLOROBENZOYL)-3-(5-(4-CHLOROPHENYL)-2-PYRIDYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)C2=CC=C(C=C2)Cl)C=CC=C1 | C19H13Cl2N3O2
